### PR TITLE
[Merged by Bors] - feat(SetTheory/Cardinal/Arithmetic): properties of `sdiff`

### PR DESCRIPTION
**Pull request by mo271**
ported from Formal Conjectures ForMathlib original pr:
https://github.com/google-deepmind/formal-conjectures/pull/1496

Co-authored-by: Yaël Dillies <yael.dillies@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 1]
```diff
@@ -533,6 +533,9 @@ theorem infinite_iff {α : Type u} : Infinite α ↔ ℵ₀ ≤ #α := by
   rw [← not_lt, lt_aleph0_iff_finite, not_finite_iff_infinite]
 
 lemma aleph0_le_mk_iff : ℵ₀ ≤ #α ↔ Infinite α := infinite_iff.symm
```
Comment (mo271) [inline Mathlib/SetTheory/Cardinal/Basic.lean:535]:
```suggestion
lemma aleph0_le_mk_iff : ℵ₀ ≤ #α ↔ Infinite α := infinite_iff.symm

```

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean [hunk 2]
```diff
@@ -820,18 +820,40 @@ theorem mk_bounded_subset_le {α : Type u} (s : Set α) (c : Cardinal.{u}) :
 
 end computing
 
+/-! ### Properties of `sdiff` -/
+section sdiff
+variable {α : Type*} {s t : Set α}
+
+@[simp]
+lemma mk_sdiff_eq_left' (hs : s.Infinite) (hst : #↑(s ∩ t) < #s) : #↑(s \ t) = #s := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean]: I don't think you need to write the `↑` explicitly? Same elsewhere.
```suggestion
lemma mk_sdiff_eq_left' (hs : s.Infinite) (hst : #(s ∩ t) < #s) : #(s \ t) = #s := by
```

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean [hunk 3]
```diff
@@ -820,18 +820,40 @@ theorem mk_bounded_subset_le {α : Type u} (s : Set α) (c : Cardinal.{u}) :
...
+lemma mk_sdiff_eq_left (hs : s.Infinite) (hts : #t < #s) : #↑(s \ t) = #s :=
+  mk_sdiff_eq_left' hs <| hts.trans_le' <| mk_subtype_mono Set.inter_subset_right
+
+@[simp]
+lemma mk_sdiff_eq_left_of_finite' (hs : s.Infinite) (hst : (s ∩ t).Finite) : #↑(s \ t) = #s :=
+  mk_sdiff_eq_left' hs <| (aleph0_le_mk_set.2 hs).trans_lt' <| by simpa
+
+@[simp]
+lemma mk_sdiff_eq_left_of_finite (hs : s.Infinite) (ht : t.Finite) : #↑(s \ t) = #s :=
+  mk_sdiff_eq_left hs <| (aleph0_le_mk_set.2 hs).trans_lt' <| by simpa
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean:845]: Are these two not trivial consequences of the top two?

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean (hunk 2 above)
Comment (plp127) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean]: you might need to do this instead since Lean will try to synthesize union and sdiff operations on `Type _`
```suggestion
lemma mk_sdiff_eq_left' (hs : s.Infinite) (hst : #(s ∩ t : Set α) < #s) : #(s \ t : Set α) = #s := by
```

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 4]
```diff
@@ -533,6 +533,10 @@ theorem infinite_iff {α : Type u} : Infinite α ↔ ℵ₀ ≤ #α := by
...
+
+@[simp] lemma aleph0_le_mk_set {s : Set α} : ℵ₀ ≤ #s ↔ s.Infinite := by
```
Comment (vlad902) [inline Mathlib/SetTheory/Cardinal/Basic.lean:537]: I'm not sure if this should be `@[simp]`, if it is should the above lemma also be `@[simp]`?

Also, what is up with the `aleph0_le_mk_iff` vs `infinite_iff` directly above, they seem to be the exact same iff lemma just stated in opposite orders?!

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean (hunk 3 above)
Comment (mo271) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean:845]: in some sense yes: see the proofs: I'm not seeing how I can golf it more

File: Mathlib/SetTheory/Cardinal/Basic.lean (hunk 4 above)
Comment (mo271) [reply Mathlib/SetTheory/Cardinal/Basic.lean:537]: re `aleph0_le_mk_iff` and `infinite_iff`:
 yes, see the proof of the second one: it is just the first one reversed I think that sometimes happen in mathlib? In any case it is pre-existing, happy to do a refactor here or in another pr if you think one should be removed.
 
re making both or neither `simp`:
Making `aleph0_le_mk_iff` a `@[simp]` lemma breaks one proof elsewhere in the library (namely `mk_equiv_of_lift_eq` in Arithmetic.lean). The issue is that cardinal arithmetic lemmas like `power_self_eq` require side conditions of the form `ℵ₀ ≤ c`. If `aleph0_le_mk_iff` is a simp lemma, simp rewrites these side conditions to Infinite α before the cardinal lemmas can use them, causing simp to fail. I don't think there are side conditions of the form `ℵ₀ ≤ #s` for sets `s`, but `s.Infinite` often occurs

So it seem perfectly safe to make `aleph0_le_mk_set` a simp lemma (simplifying cardinal inequalities on sets down to the more elementary Set.Infinite, in fact this is used above in the proof of `mk_sdiff_eq_left'` ), while keeping `aleph0_le_mk_iff` out of the simp set to preserve the ability to automatically discharge `ℵ₀ ≤ #α` side conditions.

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean (hunk 2 above)
Comment (mo271) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean]: I don't think there is a difference in this case between `#↑(s ∩ t)` and `#(s ∩ t : Set α) < #s)`, but I applied the latest suggestion if you think this is more idiomatic.

**Review by Ruben-VandeVelde — APPROVED** [review]
Seems fine.

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
